US04134980
1-[6,7-Dimethoxy-1(2H)-phthalazinone-2-yl]-3-[N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane hydrochloride was prepared analogous to Example 1 (b) by reaction of 1-[6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-chloro-propane with N-(3,4-dimethoxy-phenylethyl)-N-methylamine in chlorobenzene. M.p.: 200° C.

reactant | 1-[6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-chloro-propane | COC=1C=C2C=NN(C(C2=CC1OC)=O)CCCCl | C13H15ClN2O3
reactant | N-(3,4-dimethoxy-phenylethyl)-N-methylamine | COC=1C=C(C=CC1OC)CCNC | C11H17NO2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-[6,7-Dimethoxy-1(2H)-phthalazinone-2-yl]-3-[N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane hydrochloride | Cl.COC=1C=C2C=NN(C(C2=CC1OC)=O)CCCN(CCC1=CC(=C(C=C1)OC)OC)C | InChI=1S/C24H31N3O5.ClH/c1-26(12-9-17-7-8-20(29-2)21(13-17)30-3)10-6-11-27-24(28)19-15-23(32-5)22(31-4)14-18(19)16-25-27;/h7-8,13-16H,6,9-12H2,1-5H3;1H
